US06495712B2
Production of diphenyl sebacate
In a four-necked flask having the same construction as that used in Example 1 there were charged 234 g (1.0 mole) of diphenyl phosphite and 101 g (0.5 mole) of sebacic acid, and reaction was carried out for one hour at 120-130° C. while stirring. Analysis of the reaction solution by liquid chromatography showed an esterification rate of 97%.

reactant | diphenyl phosphite | 1.0 mole, 234 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | sebacic acid | 0.5 mole, 101 g | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
product | diphenyl sebacate | C(CCCCCCCCC(=O)OC1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C22H26O4
